US07973061B2
2-(1-Amino-ethyl)-thiazole-4-carboxylic acid ethyl ester:
(1-Thiocarbamoyl-ethyl)-carbamic acid tert-butyl ester (8.7 g, 42.5 mmol) and ethyl bromopyruvate (90% Tech., 9.21 g, 42.5 mmol) were heated at reflux in ethanol (200 mL) for 12 hours. The ethanol was removed in vacuo and the residue was purified by flash chromatography (5:95 MeOH:CH2Cl2) to afford the title compound (1.24 g, 15% over two steps): 1H NMR (400 MHz, d6-DMSO): 8.37 (s, 1H), 4.28 (qd, 2H), 4.24 (q, 1H), 2.60 (br s, 2H), 1.37 (d, 3H), 1.29 (t, 3H); MS (ESI-LCMS) for C8H13N2O2S: 201 (MH+).

reactant | (1-Thiocarbamoyl-ethyl)-carbamic acid tert-butyl ester | 42.5 mmol, 8.7 g | C(C)(C)(C)OC(NC(C)C(N)=S)=O | C8H16N2O2S
reactant | ethyl bromopyruvate | 42.5 mmol, 9.21 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2-(1-Amino-ethyl)-thiazole-4-carboxylic acid ethyl ester | 1.24 g, 15% | C(C)OC(=O)C=1N=C(SC1)C(C)N | C8H12N2O2S
